US07662771B2
5-[4-(2-Acetylamino-phenyl)-oxazol-2-yl]-pentanoic acid
Combine 5-[4-(2-acetylamino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (3.26 g, 10.3 mmol) with THF (3 mL), EtOH (3 mL) and 1 N NaOH (40 mL) and stir at room temperature until hydrolysis is complete. Concentrate the mixture and dilute the residue with water before adjusting to pH 3.5-4.0 with aq HCl. Extract the mixture with 1-2% MeOH/EtOAc and concentrate the combined extracts in vacuo. Chromatograph the resulting residue over silica gel (MeOH/CH2Cl2) which allows for isolation of 5-[4-(2-acetylamino-phenyl)-oxazol-2-yl]-pentanoic acid (2.76 g, 89%). MS (ES): (M−1)− 301.2, 302.3.

reactant | 5-[4-(2-acetylamino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 10.3 mmol, 3.26 g | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)NC(C)=O)=O | C17H20N2O4
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1 N, 40 mL | [OH-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 5-[4-(2-Acetylamino-phenyl)-oxazol-2-yl]-pentanoic acid | C(C)(=O)NC1=C(C=CC=C1)C=1N=C(OC1)CCCCC(=O)O | C16H18N2O4
